US05623073
9-[2-HYDROXY-2-(4-METHOXYPHENYL)ETHYL]-2,3-DIHYDROIMIDAZO [1,2-a]BENZIMIDAZOLE HYDROCHLORIDE
Add 0.3 g (7.5 mmol) of sodium borohydride bit by bit to a suspension of 2.41 g (7 mmol) of 9-(4'-methoxyphenacyl)-2,3-dihydroimidazo[1,2-a]benzimidazole--described in Example 6--in 15 ml of methanol over a period of thirty minutes at room temperature. Continue stirring for a further four hours and leave until the next day. Subsequently, add 10 ml of 10% hydrochloric acid until a pH of 2-3 is obtained, and evaporate the methanol. Treat the residue with an ammonium hydroxide solution and extract with chloroform. Recrystallise the residue. The title compound is obtained in the form of a base. Dissolve in hot ethanol and add ethereal hydrogen chloride. Allow to cool, suction-filter, and wash with ether. The title compound is obtained.

reactant | sodium borohydride | 7.5 mmol, 0.3 g | [BH4-].[Na+]
reactant | 9-(4'-methoxyphenacyl)-2,3-dihydroimidazo[1,2-a]benzimidazole | 7 mmol, 2.41 g | COC1=CC=C(C(CN2C=3N(C4=C2C=CC=C4)CCN3)=O)C=C1 | C18H17N3O2
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | 9-[2-HYDROXY-2-(4-METHOXYPHENYL)ETHYL]-2,3-DIHYDROIMIDAZO [1,2-a]BENZIMIDAZOLE HYDROCHLORIDE | Cl.OC(CN1C=2N(C3=C1C=CC=C3)CCN2)C2=CC=C(C=C2)OC | InChI=1S/C18H19N3O2.ClH/c1-23-14-8-6-13(7-9-14)17(22)12-21-16-5-3-2-4-15(16)20-11-10-19-18(20)21;/h2-9,17,22H,10-12H2,1H3;1H
